US08222416B2
Trimethylsilyl acetylene (10.5 mL, 79.1 mmol) was added to a solution of 6-amino-5-iodo-nicotinic acid methyl ester (11 g, 39.6 mmol), copper (I) iodide (754 mg, 4.0 mmol), tetrakis(triphenylphosphine)palladium(0) (2.3 g, 2.0 mmol) and diisopropylethylamine (21 mL, 118.7 mmol) in N,N-dimethyl formamide (80 mL) at 0° C. After addition, the reaction mixture was allowed to warm up to 25° C. and stirred for 2 h. The mixture was extracted with ethyl acetate, washed with brine and dried over sodium sulfate. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (QingDao silica gel, 200-300 mesh, 5% dichloromethane/hexanes to 60% dichloromethane/hexanes) to afford 6-amino-5-trimethylsilanylethynyl-nicotinic acid methyl ester (7.1 g, 72%) as a light yellow solid: 1H NMR (400 MHz, CDCl3) δ ppm 0.28 (s, 9H), 3.88 (s, 3H), 5.58 (br. s., 2H), 8.14 (d, J=2.2 Hz, 1H), 8.66 (d, J=2.2 Hz, 1H).

reactant | Trimethylsilyl acetylene | 79.1 mmol, 10.5 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 6-amino-5-iodo-nicotinic acid methyl ester | 39.6 mmol, 11 g | COC(C1=CN=C(C(=C1)I)N)=O | C7H7IN2O2
reactant | diisopropylethylamine | 118.7 mmol, 21 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethyl formamide | 80 mL | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 4.0 mmol, 754 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.0 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-amino-5-trimethylsilanylethynyl-nicotinic acid methyl ester | 7.1 g, 72% | COC(C1=CN=C(C(=C1)C#C[Si](C)(C)C)N)=O | C12H16N2O2Si
